US06784137B2
50% Hydrogen peroxide (38 g, 0.35 mol) was carefully added to a mechanically stirred mixture of trifluoroacetic acid (350 mL) and 5,6-dichloropyridine-2-carboxylic acid (56.4 g, 0.29 mol) at 79° C. After one hour, the reaction mixture was poured into 1 L of saturated aqueous NaHSO3, stirring vigorously and cooling in an ice bath. The precipitate was collected and dried to provide 5,6-dichloropyridine-2-carboxylic acid-N-oxide (62.9 g, 0.30 mol), mp 160° C.

reactant | Hydrogen peroxide | 0.35 mol, 38 g | OO | H2O2
reactant | 5,6-dichloropyridine-2-carboxylic acid | 0.29 mol, 56.4 g | ClC=1C=CC(=NC1Cl)C(=O)O | C6H3Cl2NO2
reactant | NaHSO3 | 1 L | OS(=O)[O-].[Na+]
solvent | trifluoroacetic acid | 350 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5,6-dichloropyridine-2-carboxylic acid-N-oxide | 0.30 mol, 62.9 g | ClC1=CC=C([N+](=C1Cl)[O-])C(=O)O | C6H3Cl2NO3
